* C:\EE310_Group9_Water-Level-Sensor\Phase2_Transmitter\LED driver draft.asc
* Generated by LTspice 26.0.1 for Windows.
D1 N001 N003 D
Q1 N001 N002 N004 0 2N3904
Q2 N003 N004 N005 0 2N2222
R1 N005 0 47
R2 N002 0 4.7k
R3 N001 N002 10k
VCC N001 0 12
V1 N002 0 PULSE(0 5 0 1u 1u 5m 10m)
.model D D
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\realh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100ms
.backanno
.end
